US04298738
91 parts of 2,4,6-trimethylbenzoyl chloride are introduced into an apparatus as described in Example 1. 83 parts of triethyl phosphite are added in the course of 15 minutes at 60° C., after which the mixture is stirred for 8 hours at 80° C. The material discharged from the flask is distilled under a pressure of 0.4 mm and the fraction boiling at 120°-122° C. under this pressure is collected. 51 parts (36 percent of theory) of diethyl 2,4,6-trimethylbenzoylphosphonate are obtained as a pale yellowish liquid.

reactant | 2,4,6-trimethylbenzoyl chloride | CC1=C(C(=O)Cl)C(=CC(=C1)C)C | C10H11ClO
reactant | triethyl phosphite | P(OCC)(OCC)OCC | C6H15O3P
product | diethyl 2,4,6-trimethylbenzoylphosphonate | 36 percent | CC1=C(C(=O)P(OCC)(OCC)=O)C(=CC(=C1)C)C | C14H21O4P
